US08735384B2
A vial was charged with methyl 2-(2-amino-3-morpholinoquinolin-6-yl)-3-chlorobenzoate (841 mg, 2.114 mmol), dichlorobis(acetonitrile)palladium(II) (54.8 mg, 0.211 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (302 mg, 0.634 mmol) and cesium carbonate (1.79 g, 5.50 mmol). The vial was evacuated and backfilled with nitrogen gas 3×. ACN (9 mL) was added and the suspension was allowed to stir at RT for 20 min. 3,3-Dimethyl-1-butyne (0.521 mL, 4.23 mmol) was added and the reaction mixture was heated to 90° C. for 3.5 h. The reaction mixture was partitioned between water and EtOAc. The organic phase was separated and dried over MgSO4. The solvent was removed under reduce pressure and the remaining residue was purified by column chromatography (10% MeOH in DCM). Methyl 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbut-1-ynyl)benzoate was obtained as an orange-brown solid.

reactant | methyl 2-(2-amino-3-morpholinoquinolin-6-yl)-3-chlorobenzoate | 2.114 mmol, 841 mg | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C(=O)OC)C=CC=C1Cl | C21H20ClN3O3
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.634 mmol, 302 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 5.50 mmol, 1.79 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,3-Dimethyl-1-butyne | 4.23 mmol, 0.521 mL | CC(C#C)(C)C | C6H10
catalyst | dichlorobis(acetonitrile)palladium(II) | 0.211 mmol, 54.8 mg | CC#N.CC#N.Cl[Pd]Cl
product | Methyl 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbut-1-ynyl)benzoate | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C(=O)OC)C=CC=C1C#CC(C)(C)C | C27H29N3O3
